US08809551B1
1,2-dimethyl-1-(4-sulfonatobutyl)-3-phenyl-1H-benzo[e]indolium (3)
N-(2-Naphtyl), N-phenylhydrazine hydrochloride (19.51 mmol, 5.28 g), 5-methyl-6-oxoheptanesulfonic acid (17.18 mmol, 3.70 g) and anhydrous ZnCl2 (17.18 mmol, 2.34 g) in absolute ethanol (30 ml) were stirred at room temperature for 30 min, then at 80° C. for 2 h. the reaction progress was checked by TLC (10% H2O in CH2CN). After completion the reaction was cooled down and the solvent removed under vacuum. The residue was dissolved in DCM and purified by flash column on silica-gel. Yield: 3.06 g, 42%.

reactant | N-phenylhydrazine hydrochloride | 19.51 mmol, 5.28 g | Cl.C1(=CC=CC=C1)NN
reactant | 5-methyl-6-oxoheptanesulfonic acid | 17.18 mmol, 3.70 g | CC(CCCCS(=O)(=O)O)C(C)=O | C8H16O4S
reactant | H2O | O | H2O
reactant | ethanol | 30 ml | C(C)O | C2H6O
catalyst | ZnCl2 | 17.18 mmol, 2.34 g | [Cl-].[Cl-].[Zn+2]
product | 1,2-dimethyl-1-(4-sulfonatobutyl)-3-phenyl-1H-benzo[e]indolium | CC1(C(=[N+](C=2C=CC3=C(C12)C=CC=C3)C3=CC=CC=C3)C)CCCCS(=O)(=O)[O-] | C24H25NO3S
